US05541229
4'-[(6-Benzylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(6-benzylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(6-benzylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(C1=CC=CC=C1)NC(=O)NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C1 | C37H40N4O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(6-Benzylaminocarbonylamino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(C1=CC=CC=C1)NC(=O)NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C1 | C33H32N4O3
